US07687502B2
(6-Hydroxy-quinazolin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine
The compound of Example 38 was manufactured using 6-acetoxy-4-chloro-quinazoline and thiazolo[5,4-b]pyridin-2-yl-amine by the same method as in Example 1 for the manufacture of 6-iodoquinazolin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine, by a similar method thereto or by a combination of such a method with a conventional method.

reactant | 6-acetoxy-4-chloro-quinazoline | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)Cl | C10H7ClN2O2
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
product | (6-Hydroxy-quinazolin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine | OC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC=CC=C2N1 | C14H9N5OS
